US05760041
A solution of 1.58 g of N-(3-bromophenyl)-4,6-quinazolindiamine in 15 ml of pyridine was cooled in an ice bath and a solution of 0.67 ml of 3,3-dimethylacryloyl chloride in 7 ml of ether was added dropwise. After stirring and cooling for 2 hours, the solvents were removed at reduced pressure. The residue was treated with water and the resulting solid was recrystallized from methyl cellusolve to give 0.97 g of N-[4-[(3-bromophenyl)amino]-6-quinazolinyl]-3-methyl-2-butenamide: mp=300°-301° C., mass spectrum (m/e): 396, 398.

reactant | N-(3-bromophenyl)-4,6-quinazolindiamine | 1.58 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)N | C14H11BrN4
reactant | 3,3-dimethylacryloyl chloride | 0.67 ml | CC(=CC(=O)Cl)C | C5H7ClO
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | 7 ml | CCOCC | C4H10O
product | N-[4-[(3-bromophenyl)amino]-6-quinazolinyl]-3-methyl-2-butenamide | 0.97 g | BrC=1C=C(C=CC1)NC1=NC=NC2=CC=C(C=C12)NC(C=C(C)C)=O | C19H17BrN4O
